
Vsig 1 0 DC 0 SIN(2.02 .67 10)
R1 1 2 100
Xopamp 2 3 0 NLAmplifier
R2 3 0 50k

.include NLAmplifier.sub
*.dc Vsig -10 10 0.1
.tran 1u .5 0 .01m
.end
