* Example of Amplifier Subcircuit instantiation and test
* Filename: Amplifier_test.cir, Subcircuit called: Amplifier, Subcircuit Definition file:
.include Amplifier.sub
* Input Voltage source and resistance
*Vsig 1 0 DC 0V
*Vsig 1 0 DC 0V AC 1 0
Vsig 1 0 DC 0 SIN(0 1 30k)
R1 1 2 10K
* Load Resistance
Rload 3 0 1K
* IMPORTANT DESCRIPTION OF HOW SUBCIRCUITS ARE INSTANTIATED
* Subcircuit instantiation. All subcircuits start with leading character X and then unique identifier.
* Note: The PINS must be in the correct order to match that of the subcircuit.
* In this case 2 = VIN 3 = VOUT and 0 = VGND which matches order in sub file .subckt command.
Xamp 2 3 0 Amplifier
* Include card tells Spice to pull named file into this deck
.include Amplifier.sub
*Usual Spice Simulation Commands
*.dc Vsig -1 1 0.1
*.ac DEC 20 1 1Meg
.TRAN 1u 300u
.end
